Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Plavix
 
Attending: ___.
 
Chief Complaint:
Admit for colonoscopy
 
Major Surgical or Invasive Procedure:
colonoscopy
 
History of Present Illness:
___ with CAD, CHF EF 55%, ICD for NSVT, dm2, CRI presents for 
elective colonoscopy. Of note, he was recently admitted to ___ 
___ - ___ for rectal bleeding. Colonoscopy during the 
admission showed diverticulosis with no identifiable source of 
the bleeding. Hct remained stable and he did not require 
transfusiuon and was discharged with a plan in place for 
follow-up. Per the patient's  gastroenterologist, Dr. 
___ patient could NOT do adequate prep at home on 
multiple occasions in the past due to age, frailty, 
comorbidities, risk of dehydration and falling and the fact that 
he lives alone. ___ has not been sufficient as they come in for 
short period and leave. Multiple attempts to prep and scope have 
ended up in inadequate scopes in the past. The patient states 
that he has had intermittent diarrhea symptoms with soft brown 
stools. He denies abd ___ or constipation. He denies fevers, 
chills, nausea or vomiting. He is now admitted to hospitalist 
service for colonoscopy tomorrow.
 
Past Medical History:
-CAD s/p MI x2, s/p RCA stent ___
-CHF (EF 55% in ___ with diastolic dysfunction)
-DM2 (never required outpatient insulin)
-internal hemorrhoids (bleeding on anoscopy in ___
-colonoscopy in ___ with hyperplastic polyp and diverticulosis
-s/p AICD placement in ___ (due to NSVT and inducible 
monomorphic VT)
-hyperlipidemia
-hypothyroidism
-history of TIAs
-prostate CA s/p TURP ___ and radiation proctitis
-irritable bowel syndrome
-BPH
-s/p cataract surgery R eye
-HTN
-CKD III (thought secondary to DM2, HTN) with baseline CrCl 44 
cc/min
-Secondary hyperparathyroidism
-Spinal stenosis and radiculopathy: followed at ___ Mgmt 
Ctr for lumbar epidural DepoMedrol injections

 
Social History:
___
Family History:
Father died of emphysema.  Mother died of complications from 
hypertension.  Younger brother died of "heart disease".
 
Physical Exam:
VS: Temp: 97 BP: 108/68  HR: 62  RR: 18  O2sat: 97 RA  
.  
Gen: resting in bed, appearing comfortable  
HEENT: PERRL, EOMI. Mucous membranes moist. No oral ulcers.  
Neck: Supple, no LAD, no JVP elevation.  
Lungs: CTA bilaterally, no wheezes, rales, rhonchi. Normal 
respiratory effort.  
CV: RRR, II/VI systolic murmur LUSB 
Abdomen: soft, NT, ND, NABS, no HSM.  
Extremities: warm and well perfused, no cyanosis, clubbing, 
edema.  
Neurological: alert and oriented X 3 
Skin: No rashes or ulcers.  
Psychiatric: Appropriate.  
 
Brief Hospital Course:
___ with CAD, CHF EF 55%, ICD for NSVT, dm2, admitted for 
elective colonoscopy. Procedure was well tolerated. Diverticula 
and angioectasias were noted with thermal therapy applied. 
Patient tolerated a regular diet and was discharged home with GI 
follow-up.
.
 
Medications on Admission:
1.  Fosinopril 10 mg daily.
2.  Glipizide 5 mg daily.
3.  Coreg 12.5 mg b.i.d.
4.  Aggrenox ___ mg daily.
5.  Levothyroxine 0.125 mg daily.
6.  Calcitriol 0.25 mg daily.
7.  Aspirin 81 mg daily.
8.  Vitamin D.
9.  Iron 325 mg daily.
10.  Atropine as needed.
11.  Ezetemibe ___ mg daily.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1)Diverticulosis of the sigmoid colon
2)Angioectasias in the cecum (thermal therapy)

 
Discharge Condition:
Good; stable

 
Discharge Instructions:
You were admitted for a colonscopy.  Please resume all of your 
usual medications.
 
Followup Instructions:
___